US06090833
6-Chloro-2-(3-chlorophenyl)-8,8a-dihydroindeno[1 ,2-d]thiazol-3a-ol hydrobromide
This compound is prepared analogously to the process described in Example 1c using 2-bromo-5-chloroindan-1-one and 3-chlorothiobenzamide; melting point: 205-210° C. (dec.).

reactant | 2-bromo-5-chloroindan-1-one | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | 3-chlorothiobenzamide | ClC=1C=C(C(=S)N)C=CC1 | C7H6ClNS
product | 6-Chloro-2-(3-chlorophenyl)-8,8a-dihydroindeno[1 ,2-d]thiazol-3a-ol hydrobromide | Br.ClC1=CC=2CC3C(N=C(S3)C3=CC(=CC=C3)Cl)(C2C=C1)O | InChI=1S/C16H11Cl2NOS.BrH/c17-11-3-1-2-9(6-11)15-19-16(20)13-5-4-12(18)7-10(13)8-14(16)21-15;/h1-7,14,20H,8H2;1H
